US07915443B2
N-{[2-(3-hydroxypyrrolidin-1-yl)-2-oxoethyl](oxido)phenyl--sulfanylidene}-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide
To the solution of (S)-ethyl(N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetate (4.03 g, 7.26 mmol) in anhydrous THF (75 mL) was added dropwise 3-pyrrolidinol (6.0 mL) and the resulting reaction solution was heated at 65° C. for 5 hours. The reaction was then concentrated under reduced pressure and the yellow oily residue was partitioned between aqueous NH4Cl and EtOAc. The organic layer was separated and washed sequentially with brine (1×), saturated aqueous NaHCO3 (1×), brine (1×), and finally dried with anhydrous sodium sulfate overnight. The clear solution was decanted and concentrated. The oily residue was subject to multiple times of column chromatography (eg. from CH2Cl2 to MeOH—CH2Cl2 1:25 or from EtOAc-Hex 3:1 to MeOH-EtOAc 1:100) the title compound as white foam (2.35 g, 54%).

reactant | (S)-ethyl(N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)pyridin-3-yl]carbonyl}-S-phenylsulfonimidoyl)acetate | 7.26 mmol, 4.03 g | C(C)[C@@H](C(=O)[O-])S(=O)(=NC(=O)C=1C=NC=C(C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)C1=CC=CC=C1
reactant | 3-pyrrolidinol | 6.0 mL | N1CC(CC1)O | C4H9NO
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | N-{[2-(3-hydroxypyrrolidin-1-yl)-2-oxoethyl](oxido)phenyl--sulfanylidene}-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | OC1CN(CC1)C(CS(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O)=O | C32H28N4O6S
